US04489003
A mixture of 9.4 g (26.1 mmol) of tert.butyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 30 g (416 mmol) of hydroxymethyl-cyclopropane and 1.4 g (6 mmol) of tetraethyl orthotitanate is stirred at 120° for 24 hours, a small amount of solvent being distilled off in vacuo three times. The mixture is subsequently evaporated in vacuo, the residue is taken up in 60 ml of chloroform, the chloroform solution is treated with 40 ml of water and stirred for 15 hours. The mixture is then filtered through siliceous earth while washing with chloroform, the chloroform phase is dried over magnesium sulphate and evaporated. The residue is chromatographed on silica gel while eluting with ethyl acetate. After recrystallization from ethyl acetate, there is obtained cyclopropylmethyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 193-194°.

reactant | tert.butyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 26.1 mmol, 9.4 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18ClN3O3
reactant | hydroxymethyl-cyclopropane | 416 mmol, 30 g | OCC1CC1 | C4H8O
catalyst | tetraethyl orthotitanate | 6 mmol, 1.4 g | CCO.CCO.CCO.CCO.[Ti]
product | cyclopropylmethyl (S)-8-chloro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OCC3CC3)CC1)=O | C18H16ClN3O3
